US07678794B2
Synthesis of N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-isophthalamic acid methyl ester
Add ethyldimethylaminopropylcarbodiimide hydrochloride (2.47 g, 12.9 mmol) to a solution of 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (1.54 g, 5.14 mmol) and methyl hydrogen isophthalate (1.11 g, 6.17 mmol) in dichloromethane (40 mL) at 0° C. Add triethylamine (3.59 mL, 25.7 mmol) and stir at room temperature for 72 hours. At 5 hours, add additional methyl hydrogen isophthalate (200 mg). Stir overnight. Wash the mixture twice with 2N hydrochloric acid, saturated sodium bicarbonate, brine, dry, and concentrate. Triturate the residue with 1:1 hexanes: dichloromethane, and filter to afford the title compound as an off-white powder (1.83 g, 77%): 1H NMR (CDCl3) δ 0.97 (t, 3H), 1.59 (sextet, 2H), 2.56 (s, 3H), 2.72 (t, 2H), 3.98 (s, 3H), 5.20 (s, 2H), 6.49 (d, 1H), 7.25 (m, 1H), 7.42 (t, 1H), 7.56-7.64 (m, 3H), 7.79 (s, 1H), 7.89 (s, 1H), 8.15 (d, 1H), 8.24 (d, 1H), 8.48 (s, 1H), 12.75 (s, 1H).

reactant | ethyldimethylaminopropylcarbodiimide hydrochloride | 12.9 mmol, 2.47 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 5.14 mmol, 1.54 g | NC=1C=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=CC1 | C18H21NO3
reactant | methyl hydrogen isophthalate | 6.17 mmol, 1.11 g | C(C1=CC(C(=O)O)=CC=C1)(=O)OC | C9H8O4
reactant | triethylamine | 25.7 mmol, 3.59 mL | C(C)N(CC)CC | C6H15N
reactant | methyl hydrogen isophthalate | 200 mg | C(C1=CC(C(=O)O)=CC=C1)(=O)OC | C9H8O4
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-isophthalamic acid methyl ester | 1.83 g, 77% | COC(C1=CC(C(=O)NC2=CC(=CC=C2)COC2=C(C(=C(C=C2)C(C)=O)O)CCC)=CC=C1)=O | C27H27NO6
